US06777557B2
2-Methyl-3-(2-oxo-2-phenylethyl)-7-oxo-5,6,7,8-tetrahydropyrimidino[4,5-d]pyrimidin-3-ium bromide
2-Methyl-7-oxo-5,6,7,8-tetrahydropyrimidino[4,5-d]pyrimidine (0.1 g, 0.6 mmole) and 2-bromo-1-phenyl-1-ethanone (0.12 g, 0.6 mmole) in ethanol (20 mL) were heated at reflux for 32 hr. After cooling, the precipitated hydrobromide (mp>310 C.) of the starting heterocycle was filtered out, and the filtrate was diluted with ether to form a precipitate which was recrystalized from methanol-ether to yield 47.5 mg of the title compound, mp 249-250 C.

reactant | 2-Methyl-7-oxo-5,6,7,8-tetrahydropyrimidino[4,5-d]pyrimidine | 0.6 mmole, 0.1 g | CC=1N=CC2=C(NC(NC2)=O)N1 | C7H8N4O
reactant | 2-bromo-1-phenyl-1-ethanone | 0.6 mmole, 0.12 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-Methyl-3-(2-oxo-2-phenylethyl)-7-oxo-5,6,7,8-tetrahydropyrimidino[4,5-d]pyrimidin-3-ium bromide | 47.5 mg | [Br-].CC=1[N+](=CC2=C(NC(NC2)=O)N1)CC(C1=CC=CC=C1)=O | InChI=1S/C15H14N4O2.BrH/c1-10-17-14-12(7-16-15(21)18-14)8-19(10)9-13(20)11-5-3-2-4-6-11;/h2-6,8H,7,9H2,1H3,(H,16,21);1H
